US09212187B2
Synthesis of N-[5-(1-methyl-2-oxo-1,2-dihydroquinolin-6-yloxy)pentyl]-2-nitro-N-(2-pyridin-3-ylethyl)benzenesulfonamide
2-Nitro-N-(2-pyridin-3-ylethyl)benzenesulfonamide(308 mg), and potassium carbonate(276 mg) were added to a DMF solution(5 ml) of 6-(5-bromopentyloxy)-1-methyl-1H-quinolin-2-one(348 mg). The mixture was stirred at room temperature for 2 hours. Ice water was poured to the reaction mixture, followed by extraction using ethyl acetate. The organic layer was washed with water, dried with anhydrous sodium sulfate, and condensed under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate→ethyl acetate: methanol=10:1). The purified product was condensed to dryness under reduced pressure to give 5 the title compound(535 mg) as a yellow amorphous solid.

reactant | 2-Nitro-N-(2-pyridin-3-ylethyl)benzenesulfonamide | 308 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NCCC=1C=NC=CC1 | C13H13N3O4S
reactant | potassium carbonate | 276 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 6-(5-bromopentyloxy)-1-methyl-1H-quinolin-2-one | 348 mg | BrCCCCCOC=1C=C2C=CC(N(C2=CC1)C)=O | C15H18BrNO2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N-[5-(1-methyl-2-oxo-1,2-dihydroquinolin-6-yloxy)pentyl]-2-nitro-N-(2-pyridin-3-ylethyl)benzenesulfonamide | 535 mg | CN1C(C=CC2=CC(=CC=C12)OCCCCCN(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CCC=1C=NC=CC1)=O | C28H30N4O6S
